US06087380
3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-ethoxycarbonylmethyl-amide-hydrochloride
Prepared analogously to Example 1 from 3-methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-ethoxycarbonylmethyl-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 84% of theory, C27H28N6O3 (484.56) Rf value: 0.44 (silica gel; ethyl acetate/ethanol/ammonia=50:45:5) EKA mass spectrum: (M+H)+ =485

reactant | 3-methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-ethoxycarbonylmethyl-amide | C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CCC2=CC=C(C=C2)C#N)C)CC(=O)OCC | C27H25N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
solvent | ethanol | C(C)O | C2H6O
product | 3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-ethoxycarbonylmethyl-amide-hydrochloride | Yield: 84% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CCC2=CC=C(C=C2)C(N)=N)C)CC(=O)OCC | InChI=1S/C27H28N6O3.ClH/c1-3-36-24(34)17-33(21-7-5-4-6-8-21)27(35)20-15-22-26(30-16-20)32(2)23(31-22)14-11-18-9-12-19(13-10-18)25(28)29;/h4-10,12-13,15-16H,3,11,14,17H2,1-2H3,(H3,28,29);1H
